US07199154B2
Step 3: methyl (2Z)-4-({[3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
To a solution of 1.26 g of 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl carbonate in 35 mL of CH2Cl2 cooled at −78° C. was added 1.05 g of Dess-Martin reagent. After 1 h of stirring at rt, the reaction was quenched with aqueous NaHCO3, extracted with EtOAc, washed with aqueous NaHCO3 and brine, dried over sodium sulfate, filtered through a pad of silica gel by eluting with EtOAc and evaporated. The crude material obtained was dissolved in a solvents mixture of 175 mL of t-BuOH and 75 mL of H2O, and treated with 6.07 g of NaH2PO4 mono hydrated and 6.07 g of NaClO2 for 30 min in the presence of 30 mL of 2-methyl-2-butene. The organic solvents were removed under vacuum. The crude material was diluted with EtOAc, washed with aqueous 1N HCl and brine, dried over Na2SO4, and evaporated. The crude acid obtained was diluted with THE and esterified with diazomethane (excess). The reaction mixture was concentrated and the residue was purified by flash chromatography (10–50% EtOAc/hexane) to afford 1.02 g of the title compound as a colorless oil.

reactant | 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl carbonate | 1.26 g | C(OC1=CC(=CC=C1)CO[Si](C)(C)C(C)(C)C)(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C31H38O7SSi
reactant | Dess-Martin reagent | 1.05 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaClO2 | 6.07 g | [O-]Cl=O.[Na+]
reactant | 2-methyl-2-butene | 30 mL | CC(C)=CC | C5H10
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | t-BuOH | 175 mL | CC(C)(C)O | C4H10O
solvent | H2O | 75 mL | O | H2O
product | methyl (2Z)-4-({[3-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 1.02 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OC(=O)OC\C(=C(/C(=O)OC)\C2=CC=CC=C2)\C2=CC=C(C=C2)S(=O)(=O)C)C=CC1 | C32H38O8SSi
